US07384963B2
2′-Methyl-N-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(4-trifluoromethylbenzyl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(4trifluoromethylbenzyl)-1,1′-biphenyl-4-carboxamide and iodomethane using method L. NMR; δH [2H6]—DMSO 7.89,(1H, d), 7.75,(3H, m), 7.59-7.46,(7H, m), 4.79-4.65,(2H, m), 2.94,(3H, s), 2.55,(3H, s), 2.32,(3H, s). LCMS; retention time 3.67 min, MH+ 466.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(4trifluoromethylbenzyl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)C(F)(F)F | C25H20F3N3O2
reactant | iodomethane | IC | CH3I
product | 2′-Methyl-N-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(4-trifluoromethylbenzyl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)C | C26H22F3N3O2
